US07317125B2
Preparation of benzoic acid N′-[2-(2′-methoxycarbonyl-5-fluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (50 mg, 0.122 mmol) in DME (3 ml)/2M Na2CO3 (0.215 ml, 0.427 mmol) was treated with 2-methoxycarbonylphenyl boronic acid (33 mg, 0.183 mmol) and Pd[PPh3]4 (27 mg, 0.0244 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was purified first on a silica gel column with a 20-30% ethyl acetate/hexanes gradient and then by RP HPLC to afford the product as a white solid (8 mg, 14%). MS m/e 465.23 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.122 mmol, 50 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)F | C18H18BrFN2O3
reactant | Na2CO3 | 0.427 mmol, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-methoxycarbonylphenyl boronic acid | 0.183 mmol, 33 mg | COC(=O)C1=C(C=CC=C1)B(O)O | C8H9BO4
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(2′-methoxycarbonyl-5-fluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 8 mg, 14% | COC(=O)C1=C(C=CC=C1)C1=C(C=CC(=C1)F)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C26H25FN2O5
